US08809369B2
A mixture of 2-(3-bromo-phenyl)-6-chloro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (0.82 g, 2.0 mmol), pyrrolidine (0.28 g, 4 mmol), copper (I) iodide (230 mg, 1.2 mmol), N,N-dimethyl glycine hydrochloride (220 mg, 1.6 mmol) and potassium carbonate (0.83 g, 6 mmol) in dimethylsulfoxide (20 mL) was heated for 12 h at 120° C. After colling to room temperature, the mixture was treated with ethyl acetate (50 mL) and washed with water (20 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Purification on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (30% ethyl acetate/hexanes) to afford 6-chloro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (0.31 g, 40%) as a white solid: MS (ESI) M+1=385.2.

reactant | 2-(3-bromo-phenyl)-6-chloro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 2.0 mmol, 0.82 g | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)Cl | C19H19BrClNO2
reactant | pyrrolidine | 4 mmol, 0.28 g | N1CCCC1 | C4H9N
reactant | N,N-dimethyl glycine hydrochloride | 1.6 mmol, 220 mg | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 6 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 1.2 mmol, 230 mg | [Cu]I
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.31 g, 40% | ClC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCCC1)(C)C | C22H25ClN2O2
